US04908386
4-Hydroxy-3-(methoxymethyl)-α-[ [[6-[2-(4-methoxyphenyl)ethoxy]hexyl]amino]methyl]benzenemethanol
A solution of 2-bromo-1-[3-(methoxymethyl)-4-(phenylmethoxy)phenyl]ethanone (1.38 g), N-[6-[2-(4-methoxyphenyl)ethoxy]hexyl]benzenemethanamine (1.35 g) and DEA (1.02 g) in THF (21 ml) was allowed to stand under nitrogen for 20 h. The mixture was filtered and the filtrate evaporated in vacuo to give an oil, a solution of which in ethanol (35 ml) was hydrogenated over pre-reduced 10% PdO-C (50% aqueous, 500 mg) and 5% PtO-C (400 mg). The mixture was filtered through hyflo and evaporated in vacuo to give an oil. Purification by FCC eluting with System B (900:100:5) gave the title compound as a cream solid (0.82 g) m.p. 97.5°-98.5°.

reactant | 2-bromo-1-[3-(methoxymethyl)-4-(phenylmethoxy)phenyl]ethanone | 1.38 g | BrCC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)COC | C17H17BrO3
reactant | N-[6-[2-(4-methoxyphenyl)ethoxy]hexyl]benzenemethanamine | 1.35 g | COC1=CC=C(C=C1)CCOCCCCCCNCC1=CC=CC=C1 | C22H31NO2
solvent | THF | 21 ml | C1CCOC1 | C4H8O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-Hydroxy-3-(methoxymethyl)-α-[ [[6-[2-(4-methoxyphenyl)ethoxy]hexyl]amino]methyl]benzenemethanol | 0.82 g | OC1=C(C=C(C=C1)C(O)CNCCCCCCOCCC1=CC=C(C=C1)OC)COC | C25H37NO5
